US05338855
23 (a) 4-(1,4-Dimethoxy-2-naphthyl)butyronitrile
A solution of 5.08 g of 3-(1,4-dimethoxy-2-naphthyl)propyl iodide (prepared as described in Preparation 30), and 0.70 g of sodium cyanide in 60 ml of dry dimethyl sulfoxide was stirred at 60° C. (external temperature) for 80 minutes. At the end of this time, the reaction mixture was cooled and poured into water, after which it was extracted with ethyl acetate. The extract was dried over anhydrous sodium sulfate and the solvent was removed by distillation under reduced pressure. The resulting residue was purified by column chromatography through silica gel, using a 4:1 by volume mixture of hexane and ethyl acetate as the eluent, to give 3.36 g of the title compound as a colorless oil.

reactant | 3-(1,4-dimethoxy-2-naphthyl)propyl iodide | 5.08 g | COC1=C(C=C(C2=CC=CC=C12)OC)CCCI | C15H17IO2
reactant | sodium cyanide | 0.70 g | [C-]#N.[Na+]
reactant | water | O | H2O
solvent | dimethyl sulfoxide | 60 ml | CS(=O)C | C2H6OS
product | 4-(1,4-Dimethoxy-2-naphthyl)butyronitrile | 3.36 g | COC1=C(C=C(C2=CC=CC=C12)OC)CCCC#N | C16H17NO2
